US05202243
Step D: Preparation of methyl 2-methoxy-5-ethyl-6-methylnicotinate
To a solution of sodium metal (0.55 g, 24 mmol) dissolved in anhydrous methanol (15 mL), under a nitrogen atmosphere, was added a solution of methyl 2-chloro-5-ethyl-6-methylnicotinate (3.18 g, 14.9 mmol) in dry methanol (5 mL). This solution was refluxed and monitored by tlc (thin layer chromatogram) until the starting material had been consumed (about 24 hours). The cooled mixture was diluted with diethyl ether (50 mL), washed with water, saturated aqueous NaHCO3, dried (Na2SO4), filtered and the solvent evaporated to yield 2.28 g (73%) of pure product as a light yellow oil.

reactant | sodium | 24 mmol, 0.55 g | [Na] | Na
reactant | methyl 2-chloro-5-ethyl-6-methylnicotinate | 14.9 mmol, 3.18 g | ClC1=C(C(=O)OC)C=C(C(=N1)C)CC | C10H12ClNO2
reactant | methanol | 15 mL | CO | CH4O
reactant | methanol | 5 mL | CO | CH4O
product | methyl 2-methoxy-5-ethyl-6-methylnicotinate | 2.28 g, 73% | COC1=C(C(=O)OC)C=C(C(=N1)C)CC | C11H15NO3
